US05380729
A mixture of 116 g (1 mol) of 2-ethylbutyric acid, 135 g (1.05 mol) of dimethyl sulfate, and 155 g (1.12 mol) of potassium carbonate in 500 ml of acetone was stirred at room temperature under nitrogen overnight, and then was allowed to reflux under nitrogen for 1 hour. The reaction mixture was cooled to room temperature, filtered, and the residual solid was washed with 500 ml of ether. The combined filtrate was concentrated in vacuo, the residue was redissolved in ether, the ether solution was washed successively with water and brine and then dried. The solvent was concentrated and the residual liquid was distilled to afford 70 g (53.8 %) of methyl 2-ethylbutyrate, b.p. 135°-137° C.

reactant | 2-ethylbutyric acid | 1 mol, 116 g | C(C)C(C(=O)O)CC | C6H12O2
reactant | dimethyl sulfate | 1.05 mol, 135 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 1.12 mol, 155 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | methyl 2-ethylbutyrate | 70 g, 53.8 % | C(C)C(C(=O)OC)CC | C7H14O2
